US07498346B2
General Procedure C: EDCI Coupling
To a stirred solution of a primary or secondary amine (1 equivalent), a carboxylic acid (1.1-2.0 equivalents), 1-hydroxy-benzotriazole hydrate (HOBT) (1.1-2.0 equivalents) and DIPEA (DIPEA) or N-methylmorpholine (NMM) (1.5-3 equivalents) in CH2Cl2 or DMF (concentration ˜0.05-1.5M) was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDCI) (1.1-2.0 equivalents). The solution was stirred at room temperature for 1-3 days and concentrated in vacuo. In a standard work-up, the mixture was diluted with CH2Cl2 or EtOAc and washed consecutively with saturated aqueous NaHCO3 and brine. The organic layer was dried (Na2SO4 or MgSO4), filtered and concentrated under reduced pressure. The crude material was purified by flash column chromatography or by radial chromatography on silica gel.

reactant | 1-hydroxy-benzotriazole hydrate | 1.1-2.0 equivalents | O.ON1N=NC2=C1C=CC=C2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylmorpholine | 1.5-3 equivalents | CN1CCOCC1 | C5H11NO
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.1-2.0 equivalents | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | EDCI | CCN=C=NCCCN(C)C | C8H17N3
